US04053606
2-Methyl-5-acetoxymethylpyridine (0.05 mole) is stirred in 50 ml. of chloroform at 15° C. while chloroperbenzoic acid (0.06 mole) is added over 10 min. The solution is extracted with saturated sodium bicarbonate solution (3 × 20 ml.) and 2 × 20 ml. of water. The chloroform is dried over magnesium sulfate, and concentrated to dryness to give 2-methyl-5-acetoxymethylpyridine-N-oxide.

reactant | 2-Methyl-5-acetoxymethylpyridine | 0.05 mole | CC1=NC=C(C=C1)COC(C)=O | C9H11NO2
reactant | chloroperbenzoic acid | 0.06 mole | ClC1=CC=CC=C1C(=O)OO | C7H5ClO3
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-methyl-5-acetoxymethylpyridine-N-oxide | CC1=[N+](C=C(C=C1)COC(C)=O)[O-] | C9H11NO3
